US07576099B2
Methyl 2-methoxy-4-(3,3-dimethylbut-1-ynyl)benzoate
A mixture of methyl 4-bromo-2-methoxybenzoate (1.2 g, 0.0049 mol), copper(I) iodide (0.093 g, 0.00049 mol), 3,3-dimethyl-1-butyne (0.70 mL, 0.0059 mol) and bis(triphenylphosphine)palladium(II) chloride (0.34 g, 0.00049 mol) in Et3N (10 mL) was heated at 100° C. in a 50 mL sealed reaction vessel for 16 hours. After cooling, the mixture was filtered through Celite® and the filter cake was washed repeatedly with ethyl acetate. The filtrate was concentrated under vacuum and the residue was purified by column chromatography on silica gel to give a viscous oil (1.10 g, 91%).

reactant | methyl 4-bromo-2-methoxybenzoate | 0.0049 mol, 1.2 g | BrC1=CC(=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | 3,3-dimethyl-1-butyne | 0.0059 mol, 0.70 mL | CC(C#C)(C)C | C6H10
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.00049 mol, 0.093 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.00049 mol, 0.34 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-methoxy-4-(3,3-dimethylbut-1-ynyl)benzoate | 1.10 g, 91% | COC1=C(C(=O)OC)C=CC(=C1)C#CC(C)(C)C | C15H18O3
